Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My mom and I had an altercation."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old unemployed, homeless ___ man 
with reported diagnosis of bipolar disorder s/p numerous 
psychiatric hospitalizations and prior suicide attempts, history 
of significant paranoia who presented to ___ ED via EMS due to 
"family issues, domestic violence, and bipolar depression." 
Patient presented after family called police after he threatened 
to kill himself with a knife. 
.
Upon initial interview in the ED with Dr. ___ 
stated he came to the ED because he "felt like I'm not welcome 
at home," after getting in a fight with his mother and brothers 
this morning. Patient reported that "no one understands me in 
the family because I'm not in ___, no one appreciate me." 
He's been living with his family for the past three months 
because of extensive "roommate trouble" in ___. On multiple 
occasions, he'd been "kicked out" by many roommates. He also 
noted that his mom "beat me up" earlier today, because when his 
brother was trying to wake him up today, there was a conflict 
and he tried to get his mother involved. The mother reportedly 
said: "you don't really live here." Patient worried that his 
mother "will throw my stuff out."
. 
Patient also reported stress and anxiety due to a court case 
with the mother's boyfriend, saying "I didn't want that 
boyfriend for my mom." In discussing his mom's boyfriend: "he 
felt threatened, but I felt threatened, but he made the first 
call." Pt denies being in current legal trouble.
. 
Pt recalled recent incident of being locked in a basement right 
before a job interview; "they even called the cops on me." Pt 
also recalled incident when he stayed with a female friend: she 
accused him of having touched her, so "I called the cops myself, 
because I'm not about that," pt described trepidation as a black 
man being accused of sexual assault.
. 
Pt has history of attempted suicide in ___, w hanging, stopped 
by mother. He reports having very few friends and saying that 
more than anything he is "lonely". At this point in the 
interview he became tearful. 
.  
PER EMS REPORT: "U/A FIND ___ SEATED IN BACK OF POLICE WAGON, 
FULLY ALERT, CRYING. FAMILY REPORTS ___ WAS ACTING STRANGELY AND 
BEING AGGRESSIVE WITH FAMILY. WHEN ___ IS ASKED WHAT HAPPENED, HE 
GOES ON A NONSENSICAL RANT. ___ AND FAMILY REPORT SIMILAR 
EPISODES IN PAST."
. 
COLLATERAL: Mother, ___: At home: talking nonsense 
since yesterday
He calmed down, this morning his brother put the shade up from a 
shower, got mad. He called the brother bad names, went to grab 
the brother to hit him, grabbed ___ by his hair to release her 
son. 
. 
Started fighting with the mother. ___ his hair to protect 
the second son.  She would rather he attacked her. Called her 
sister and mother, the family came and talked to him. He grabbed 
a knife and went to cut himself. Uncle called the police because 
this was too much. He did not want to go to the hospital. She 
states that she knows he has a psychiatric diagnosis but is 
unsure what it is. She reports that he was on medication for 
something. Every time he gets discharged he wouldn't let anyone 
tell her anything. She's worried he will come back and hurt her 
little kids in her home. 
.
Suicide attempt: doesn't remember when, since ___ he took a 
extension cord to try and hang himself. She found him and 
stopped him. Ended up in ___ hospital after this. Another time 
he tried to kill himself with a knife. 
. 
She states that the patient has been very violent and his story 
about getting locked in a basement is at least partially true- 
prior to being locked in a basement he was breaking walls in a 
home. The family is scared of him. 
.
ED Course: Patient remained in good behavioral control in the 
ED, without the use of chemical or physical restraints.
. 
Upon admission interview, patient reported that his family 
called ___ after he and his mother got into a verbal and 
subsequently physical argument. Patient states that he was 
asleep in bed when his brother opened the curtains in his room 
to wake him, and they began to argue verbally. He then says that 
his mother entered the room and intervened by "pulling my hair 
and hitting me with a lacrosse stick". Patient denied that he 
made statements about killing himself at home and denied that he 
had harmed anyone. He did state that he threw things at home, 
and also stated that he sometimes has rapid "mood swings" where 
he has difficulty controlling his anger and behaves impulsively.
.
He states that he has been living with his mother for 
approximately two months, and that during this time, he has 
become profoundly depressed. "I feel sad all the time... I feel 
more worthless." He reports low energy, although he denies
feeling tired, and endorses feelings of hopelessness. Appetite 
has been poor because "I don't really eat when I'm sad". He 
sleeps ___ hours per night, and says he has difficulty sleeping 
secondary to "my thoughts racing...about all the things people 
are saying to me and doing to me."
. 
Over the past year, patient has had 5 different living 
arrangements with various roommates. All situations have failed 
because the patient becomes "worried about what they're going to 
do to me...worried about what they're going to do to my things." 
He reported a suspicion that multiple roommates in each 
situation were poisoning his food. "I felt like they were trying 
to make me sick." Patient has also been afraid to leave his room 
or the house out of fear that one of his roommates will steal 
his things. "I never leave the house, because I'm afraid of what 
they'll do when I leave."
. 
Patient is currently unemployed. He expressed feeling desperate 
to find a job, but says "all of my references are bad, and you 
can't just put nothing on an application...I've been out of high 
school for ___ years." When asked what happened at his previous 
jobs, the patient states that he keeps getting fired for not 
showing up, in the context of being too afraid to leave his 
house for fear of what roommates will do while he's gone. 
. 
Patient reported that he was last well in the ___ grade. At 
that time, "I had my first depression and attempted suicide." 
Since then, he endorses progressive isolation from his peers at 
school and ultimately marked suspiciousness of most people 
around him. After high school, patient attended ___ 
to pursue
an RN degree, but ended up having to drop out for financial 
reasons. Patient became tearful when discussing this and 
expressed strong desire to return to school, but feeling 
helpless regarding his unemployment and newly homeless living 
situation.
. 
On psychiatric review of systems, patient endorses racing 
thoughts and feelings of worry; denies symptoms of panic; denies 
compulsive behavior. Patient endorses going up to three days at 
a time without sleep; denies elevated mood/irritability, rapid 
speech, increased goal-directed behavior, and increased 
risk-taking behavior. endorses feeling "paranoid" and evidence 
of delusions per HPI; denies AVH

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Past diagnoses: bipolar disorder, unspecified mood disorder
 - Hospitalizations: x5 for suicide attempts and depression, at
least two at ___ and one at ___
 - Current treaters and treatment: none
 - Medication and ECT trials: risperidone (patient says helped
with his anger and mood swings)
 - Self-injury/Suicide attempts: at least two, per collateral,
one attempted hanging which was aborted by mother and another by
cutting
 - Harm to others: Yes, per collateral

PAST MEDICAL HISTORY: Denies

MEDICATIONS: 
- risperidone 0.5mg PO "as needed"; last took months ago

ALLERGIES: NKDA
 
Social History:
SOCIAL HISTORY:
- B/R: ___
- Family: Grew up with mother, two brothers, and step-father 
(step-father died when patient was in the ___ grade; patient 
believed him to be his biological father for many years and 
described extreme internal conflict when he found out this was 
not true and subsequently when his step-father died)
- ___: lives in ___ with mother, two brothers, and 
mother's boyfriend
- Education: studied at ___, "couldn't keep it 
going," because of financial struggles and "people kept asking 
for documents I had already submitted"
- Employment/Income: worked as uncle's ___ - ___ 
___
- Trauma: endorses unspecified trauma history
- Access to Weapons: Denies
.
SUBSTANCE ABUSE HISTORY:
- EtOH: Denies and states that he has maybe 1 drink/month
- Tobacco: mixes w/marijuana every two weeks
- Marijuana: smokes 1 blunt every two weeks
- Opiates, including heroin: denies, denies IVDU
- Benzodiazepines: denies
- Cocaine/Crack: denies
- Amphetamines: denies
- LSD/PCP/Ecstasy/Mushrooms: denies
.
FORENSIC HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Completed or attempted suicide: uncle on his mother's side 
committed suicide however he does not know how 
- Substance use or dependence: denies
- Mental Illness: says he is unsure
 
Physical Exam:
.
ADMISSION EXAM:

VS: ___ 1320 Temp: 98.1 PO BP: 133/79 HR: 75 RR: 18 O2 sat:
99%
 General: NAD
 HEENT: PERRL, MMM, OP clear.
 Neck: Supple. No adenopathy or thyromegaly.
 Back: No significant deformity, no focal tenderness
 Lungs: CTAB; no crackles or wheezes.
 CV: RRR; no m/r/g
 Abdomen: Soft, NT, ND.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: Warm and dry, no rash or significant lesions.
NEUROLOGICAL EXAM:
CN: PERRL, EOMI, sensation intact and symmetric V1/V2/V3, smile
symmetric, shoulder shrug intact, tongue midline, no atrophy
Motor: strength ___ in all four ext b/l
*Deep tendon Reflexes:
       Bicip: 2+ Patellar: 2+
Sensation: to light touch intact in all four ext b/l
Coordination: intact Finger-nose-finger
Gait/Romberg: gait wnl, Romberg not assessed

MENTAL STATUS EXAM:
-Appearance: well-appearing man who appears stated age, sitting
up in chair in NAD
-Behavior: Calm and cooperative with interview, makes 
appropriate
eye contact, answers questions appropriately
-Mood and Affect: "up and down", affect withdrawn, normal range
of affect
-Thought process: linear, goal-directed, no loose associations,
no tangentiality, no circumstantiality
-Thought Content: denies SI/HI/AVH, does not appear to be
responding to internal stimuli, +delusions apparent on interview
(see HPI)
-Judgment and Insight: poor/poor
  COGNITIVE EXAM:
    *Attention, *orientation, and executive function: accurately
states DOTWB; fully oriented to person, ___, and date;
executive function not formally tested
    * Memory: intact on interview
    *Fund of knowledge: appears appropriate to education level
    *Speech: normal amount, normal tone, rate/volume/rhythm
normal
    *Language: fluent, native ___ speaker
.
DISCHARGE EXAM:
Vitals: Temp: 98.2 PO BP: 133/91 HR: 95 RR: 16 O2 sat: 99% 

Mental Status:
-Appearance: well-appearing man who appears stated age, sitting
up in chair in NAD
-Behavior: calm, makes appropriate eye contact, answers 
questions
appropriately, no psychomotor agitation or retardation
-Attitude: cooperative, somewhat engaged
-Mood: "okay"
-Affect: withdrawn, blunted
-Speech: Normal rate, soft volume and tone, rhythm normal
-Thought process: Linear, goal-oriented, no circumstantiality,
no loose associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: None apparent on current encounter
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: denies AVH and dose not appear to be
responding to internal stimuli
-Insight: impaired
-Judgment: improving

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, place, situation
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
___ 01:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:30PM URINE  HOURS-RANDOM
___ 01:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:30PM   WBC-9.1 RBC-5.17 HGB-14.6 HCT-47.4 MCV-92 
MCH-28.2 MCHC-30.8* RDW-11.7 RDWSD-39.6
___ 01:30PM   NEUTS-71.3* LYMPHS-15.6* MONOS-7.7 EOS-4.1 
BASOS-0.9 IM ___ AbsNeut-6.49* AbsLymp-1.42 AbsMono-0.70 
AbsEos-0.37 AbsBaso-0.08
___ 01:30PM   PLT COUNT-238
___ 01:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:30PM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 01:30PM URINE  HYALINE-3*
___ 01:30PM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
#. LEGAL & SAFETY: Patient was admitted to ___ on a 
___, upon admission he refused to sign a conditional 
voluntary agreement. Upon expiration of his ___ on 
___, given his ongoing suicidal ideation and paranoia, the 
patient was felt to meet section 7&8b criteria and commitment 
paperwork was filed. However, patient became more amenable to 
treatment during his hospitalization, and agreed to sign a 
conditional voluntary form, which was accepted. Of note, he 
maintained his safety throughout his admission on 15 minute 
checks and did not require physical or chemical restraints. 
. 
#. PSYCHIATRIC: History from patient on admission was 
significant for two months of anger, racing thoughts, and "mood 
swings" with multiple worsening depressive symptoms including 
low mood, feelings of worthlessness, poor appetite, and poor 
sleep in the setting of at least one year of paranoia and social 
isolation. Collateral is significant for violence toward others 
at home and verbal threats of self harm with a knife. Exam 
revealed a calm patient with withdrawn but appropriately ranged 
affect, linear thought process, and delusional thought content 
related to others poisoning the patient's food and stealing his 
belongings. Differential diagnoses include schizophreniform 
disorder vs bipolar disorder, current episode depression with 
psychotic features, although patient's history was not 
convincing for any episodes of mania. MDD with psychotic 
features is also on the differential. Given patient's marijuana 
use, it's possible that psychotic symptoms may be 
substance-induced as well.
. 
After discussion of the risks sand benefits, risperidone was 
offered to patient on admission, however he stated he was only 
willing to take sub-therapeutic doses of this medication because 
he was concerned about dizziness and GI side effects. Discussed 
other medication options with him, and offered olanzapine 2.5mg 
PO QHS instead of risperidone. Patient agreed, and risperidone 
was discontinued. After discussion of the risks and benefits of 
starting olanzapine, patient agreed to begin this medication on 
___. He reported improvement in racing thoughts and better sleep 
on this medication. Dose was increased to 2.5mg PO BID on ___. 
Fluoxetine 20mg daily was started on ___ for depressive symptoms 
given concern for possible underlying bipolar (although with 
unclear history of mania). Depakote was also offered to patient 
starting on ___ given his history of aggression and impulsivity, 
but patient refused throughout his hospitalization and therefore 
this was discontinued prior to discharge. 
. 
Initially, patient remained markedly paranoid and depressed with 
no insight into his illness. Specifically, patient believed that 
other patients/staff on the unit were poisoning his food. He was 
withdrawn and interacted little with others. Patient did allow 
slow up-titration of olanzapine, eventually to 10mg PO qAM and 
5mg PO QHS, with good tolerance. Up-titration of fluoxetine from 
20mg to 40mg daily was recommended to patient to treat 
depressive symptoms, but he refused, stating he felt his 
depression was manageable on his current dose. 
. 
On this regimen, patient experienced improvement in sleep, 
racing thoughts, perseverations, and depressed mood. He did 
become significantly less irritable during his hospitalization 
with improvement in paranoia. Of note, although I felt he could 
benefit from an increased dose of Zyprexa, he refused further 
escalation of antipsychotic medication. By time of discharge, 
patient consistently denied suicidal thoughts or thoughts of 
harming others. Patient was also able to verbalize safety plan, 
specifically that in the event of distress, he would be able to 
call ___ or report to the nearest emergency room. 
. 
#. Cannabis Use: as above.
Counseled patient on cessation of cannabis and provided 
psychoeducation regarding the effects of cannabis on paranoia 
and psychosis. Patient verbalized intent to abstain from 
marijuana upon discharge.
.
#. Medical: Mr. ___ was medically cleared in the ED; no 
acute medical issues prevented admission to Deac 4. 
Additionally, he has no chronic medical issues requiring 
attention.
.
#. Groups/Milieu:  Mr. ___ was encouraged to participate in 
the various groups and milieu therapy opportunities offered by 
the unit. The occupational therapy and social work groups that 
focus on teaching patients various coping skills. Mr. ___ 
often attended these groups but with somewhat limited 
participation. Of note, he maintained good behavioral control in 
the milieu. 
. 
#.  COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Family meeting was held on ___ with patient and his mother. 
Mother expressed concern that patient was a danger to himself 
and others at home. She cited recent incident where the patient 
brandished a knife in front of family members, threatening to 
cut himself with patient demonstrating limited insight into the 
nature of his reported behaviors. On ___, patient was served 
with a restraining order which was filed by his mother, 
prohibiting him from having any physical contact with her. The 
patient did express frustration and disappointment in his 
mother, but was able to accept this restraining order. Of note, 
he did not verbalize any intent to return to his mother's home 
or to harm others. 
. 
Mr. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4, therefore there were no 
outside providers to be contacted. He was referred to both an 
outpatient psychiatrist and therapist upon discharge; of note 
this referral was complicated by his uninsured status; an 
application for ___ was complicated prior to his 
discharge. In addition, a ___ application was filed on his 
behalf prior to discharge. 

 
Medications on Admission:
None; patient previously took risperidone 0.5mg PO "as needed"
 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth every day. Disp #*14 
Capsule Refills:*0 
2.  OLANZapine 15 mg PO DAILY 
RX *olanzapine 5 mg 2 tablets by mouth every morning and 1 
tablet by mouth every evening. Disp #*42 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Psychotic Disorder
Cannabis use disorder 

 
Discharge Condition:
VS: 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, slightly flattened prosody 
M: 'okay' 
A: slightly blunted, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert, responds to questions appropriately 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___